US04649146
To a mixture of 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)imidazo[1,2-a]pyridine (3.0 g) in acetic acid (20 ml) was added pyridinium hydrobromide perbromide (3.5 g) at ambient temperature with stirring, which was continued under the same condition for 30 minutes. The reaction mixture was poured into a mixture of water, ethyl acetate and tetrahydrofuran and the resultant mixture was adjusted to pH 7.5 with 20% potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed in vacuo and the residue was recrystallized from a mixture of ethyl acetate and tetrahydrofuran to give 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)-3-bromo-7-methylimidazo[1,2-a]pyridine (3.0 g). mp 127°-129° C. (dec.)

reactant | 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)imidazo[1,2-a]pyridine | 3.0 g | NC=1SC(=C(N1)C(=O)OCC)C=1N=C2N(C=CC=C2)C1 | C13H12N4O2S
reactant | pyridinium hydrobromide | Br.[NH+]1=CC=CC=C1
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | 20 ml | C(C)(=O)O | C2H4O2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-amino-4-ethoxycarbonyl-5-thiazolyl)-3-bromo-7-methylimidazo[1,2-a]pyridine | 3.0 g | NC=1SC(=C(N1)C(=O)OCC)C=1N=C2N(C=CC(=C2)C)C1Br | C14H13BrN4O2S
